**********************************************************
* MODEL: CCM1
* Application: two-switch PWM converters
* Limitations: ideal switches, CCM only, no transformer
**********************************************************
* Parameters: none
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
.subckt CCM1 1  2  3  4  5
Et 1 2 value={(1-v(5))*v(3,4)/v(5)}
Gd 4 3 value={(1-v(5))*i(Et)/v(5)}
.ends ccm1
****


**********************************************************
* MODEL: CCM2
* Application: two-switch PWM converters, includes
*              conduction losses due to Ron, VD, Rd
* Limitations: CCM only, no transformer
**********************************************************
* Parameters:
*      Ron=transistor on resistance
*      VD=diode forward voltage drop (constant)
*      RD=diode on resistance
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
.subckt CCM2 1  2  3  4  5 
+Ron=0 VD=0 RD=0
Er 1 1x value={i(Et)*(Ron+(1-v(5))*RD/v(5))/v(5)}
Et 1x 2 value={(1-v(5))*(v(3,4)+VD)/v(5)}
Gd 4 3 value={(1-v(5))*i(Et)/v(5)}
.ends
**********************************************************