** An inverter model that uses the irf150 mosfet model.
.subckt inverter2 dc_hi dc_lo dah dal dbh dbl dch dcl pha phb phc
.include "../discrete-semiconductors/transistors/MOSFET/irf150.lib"

* phase a
Eagh gha1 pha value={v(daH) > 0.1 ? 10 : 0}
Ragh gha1 gha 10
XQah dc_hi gha pha irf150

Eagl gla1 dc_lo value={v(daL) > 0.1 ? 10 : 0}
Ragl gla1 gla 10
XQal pha gla dc_lo irf150

* phase b
Ebh ghb1 phb value={v(dbH) > 0.1 ? 10 : 0}
Rbh ghb1 ghb 10
XQbh dc_hi ghb phb irf150

Ebgl gbl1 dc_lo value={v(dbL) > 0.1 ? 10 : 0}
Rbgl gbl1 gbl 10
XQbl phb gbl dc_lo irf150

* phase c
Ech ghc1 phc value={v(dcH) > 0.1 ? 10 : 0}
Rch ghc1 ghc 10
XQch dc_hi ghc phc irf150

Ecgl gcl1 dc_lo value={v(dcL) > 0.1 ? 10 : 0}
Rcgl gcl1 gcl 10
XQcl phc gcl dc_lo irf150

.ends inverter2



* an inverter model that uses ideal switches and diodes.
.subckt inverter dc_hi dc_lo dah dal dbh dbl dch dcl pha phb phc 
.model fet sw vt=0.5 vh=0.01 ron=1e-3 roff=1ook
.model d d
.param coss=100p

* phase a
SaH dc_hi pha dah 0 fet OFF
daH pha dc_hi 0 d
cah pha dc_hi 0 {coss}

SaL pha dc_lo dal 0 fet OFF
dal dc_lo pha 0 d
cal dc_lo pha 0 {coss}

* phase b
SbH dc_hi phb dbh 0 fet OFF
dbH phb dc_hi 0 d
cbh phb dc_hi 0 {coss}

SbL phb dc_lo dbl 0 fet OFF
dbl dc_lo phb 0 d
cbl dc_lo phb 0 {coss}

* phase c
ScH dc_hi phc dch 0 fet OFF
dch phc dc_hi 0 d
cch phc dc_hi 0 {coss}

ScL phc dc_lo dcl 0 fet OFF
dcl dc_lo phc 0 d
ccl dc_lo phc 0 {coss}

.ends inverter