
.subckt dead_time c cn c1 c2 Td=10n

* Rising edge delay path (for c1)
b1i cc 0 v=v(c)
R1 cc cd 1k
C1 cd 0 {Td/1000}
D1 cd cc D
E1 c1 0 value={v(cd)>0.5 ? 1 : 0}

* Falling edge delay path (for c2)
b2i cb 0 v=v(cn)
R2 cb cbd 1k
C2 cbd 0 {Td/1000}
D2 cbd cb D
E2 c2 0 value={v(cbd)>0.5 ? 1 : 0}

* Define the dead time parameter
.model D D
.ends dead_time
